US07544679B2
A solution of 250 mg (1.12 mmol) (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one and 256 mg (1.12 mmol) (RS)-2-hydroxy-2-(2,2,2-trifluoro-ethylcarbamoyl)-butyric acid in 24 ml tetrahydrofuran were cooled to 0° C. and 174 mg (0.94 mmol) 1-hydroxy-benzotriazole hydrate, 390 μl (2.23 mmol) diisopropylethylamine and 218 mg (1.12 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added. Stirring was continued overnight at room temperature. Removal of the solvent by distillation and chromatography on silicagel with ethylacetate/heptane 2/8 yielded 330 mg (68%) (R/S)-2-ethyl-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,2-trifluoro-ethyl)-malonamide as a colorless oil, MS (m/e): 436.1 (M+H)+.

reactant | (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one | 1.12 mmol, 250 mg | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
reactant | (RS)-2-hydroxy-2-(2,2,2-trifluoro-ethylcarbamoyl)-butyric acid | 1.12 mmol, 256 mg | OC(C(=O)O)(CC)C(NCC(F)(F)F)=O | C7H10F3NO4
reactant | 1-hydroxy-benzotriazole hydrate | 0.94 mmol, 174 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 2.23 mmol, 390 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 1.12 mmol, 218 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | (R/S)-2-ethyl-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,2-trifluoro-ethyl)-malonamide | 330 mg, 68% | C(C)C(C(=O)N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)(C(=O)NCC(F)(F)F)O | C21H20F3N3O4
